US04739049
7-Chloro-2-methoxy-5-phenyl-3H-1,4-benzodiazepine
To a solution of 24.5 mg. (0.5 mmoles) of 7-chloro-2-di-(morpholino)phosphinyloxy-5-phenyl-3H-1,4-benzodiazepine in 5 ml. of methanol at room temperature was added 82 mg. (1.5 mmoles) of sodium methoxide. The mixture was left at room temperature overnight. Methanol was evaporated and the residue was slurried with ether. Insoluble salts were removed by filtration. The clear ether solution was evaporated. Crystallization of the residue from petroleum ether yielded a final product having a m.p. of 94°-97°.

reactant | 7-chloro-2-di-(morpholino)phosphinyloxy-5-phenyl-3H-1,4-benzodiazepine | 0.5 mmoles | ClC=1C=CC2=C(C(=NCC(=N2)OP(=O)(N2CCOCC2)N2CCOCC2)C2=CC=CC=C2)C1 | C23H26ClN4O4P
reactant | sodium methoxide | 1.5 mmoles | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | 7-Chloro-2-methoxy-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)OC)C2=CC=CC=C2)C1 | C16H13ClN2O
